Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH2:2][n:3]1[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]([F:10])([F:11])[F:12])[n:13]1)=[O:14].[CH3:15][N:16]([CH3:17])[CH2:18][c:19]1[cH:20][c:21]([N:22]2[CH2:23][CH2:24][NH:25][CH2:26][CH2:27]2)[cH:28][cH:29][c:30]1[Cl:31]>>[C:1]([CH2:2][n:3]1[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]([F:10])([F:11])[F:12])[n:13]1)(=[O:14])[N:25]1[CH2:24][CH2:23][N:22]([c:21]2[cH:20][c:19]([CH2:18][N:16]([CH3:15])[CH3:17])[c:30]([Cl:31])[cH:29][cH:28]2)[CH2:27][CH2:26]1,[CH3:15][N:16]([CH3:17])[CH2:18][c:19]1[cH:20][c:21]([N:22]2[CH2:23][CH2:24][NH:25][CH2:26][CH2:27]2)[cH:28][cH:29][c:30]1[Cl:31].[OH:101][C:1]([CH2:2][n:3]1[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]([F:10])([F:11])[F:12])[n:13]1)=[O:14].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][n:3]1[c:4]([CH3:5])[c:6]([Cl:7])[c:8]([C:9]([F:10])([F:11])[F:12])[n:13]1)(=[O:14])[N:25]1[CH2:24][CH2:23][N:22]([c:21]2[cH:20][c:19]([CH2:18][N:16]([CH3:15])[CH3:17])[c:30]([Cl:31])[cH:29][cH:28]2)[CH2:27][CH2:26]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (25, 1), ([1, 14], 14), (303, 25.1), ([25.1, 25], 25), (14, [14, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2](=[O:3])[N:4]1[CH2:5][CH2:6][CH2:7]1.[O:8]=[C:9]([O-:10])[c:11]1[cH:12][c:13]2[o:14][cH:15][cH:16][c:17]2[nH:18]1>>[CH2:1]([C:2](=[O:3])[N:4]1[CH2:5][CH2:6][CH2:7]1)[O:10][C:9](=[O:8])[c:11]1[cH:12][c:13]2[o:14][cH:15][cH:16][c:17]2[nH:18]1,[O:8]=[C:9]([OH:10])[c:11]1[cH:12][c:13]2[o:14][cH:15][cH:16][c:17]2[nH:18]1.[Cl:101][CH2:1][C:2](=[O:3])[N:4]1[CH2:5][CH2:6][CH2:7]1.[H-:301].[Na+]>>[CH2:1]([C:2](=[O:3])[N:4]1[CH2:5][CH2:6][CH2:7]1)[O:10][C:9](=[O:8])[c:11]1[cH:12][c:13]2[o:14][cH:15][cH:16][c:17]2[nH:18]1,SN2_alcohol(thiol),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH3:2])=[O:3].[CH3:4][O:5][c:6]1[cH:7][c:8]2[n:9][cH:10][n:11][c:12]([O:13][c:14]3[cH:15][cH:16][c:17]4[nH:18][cH:19][cH:20][c:21]4[c:22]3[F:23])[c:24]2[cH:25][c:26]1[O:27][CH2:28][CH:29]1[CH2:30][CH2:31][NH:32][CH2:33][CH2:34]1>>[C:1]([CH3:2])(=[O:3])[N:32]1[CH2:31][CH2:30][CH:29]([CH2:28][O:27][c:26]2[c:6]([O:5][CH3:4])[cH:7][c:8]3[n:9][cH:10][n:11][c:12]([O:13][c:14]4[cH:15][cH:16][c:17]5[nH:18][cH:19][cH:20][c:21]5[c:22]4[F:23])[c:24]3[cH:25]2)[CH2:34][CH2:33]1,[CH3:4][O:5][c:6]1[cH:7][c:8]2[n:9][cH:10][n:11][c:12]([O:13][c:14]3[cH:15][cH:16][c:17]4[nH:18][cH:19][cH:20][c:21]4[c:22]3[F:23])[c:24]2[cH:25][c:26]1[O:27][CH2:28][CH:29]1[CH2:30][CH2:31][NH:32][CH2:33][CH2:34]1.[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[N:32]1[CH2:31][CH2:30][CH:29]([CH2:28][O:27][c:26]2[c:6]([O:5][CH3:4])[cH:7][c:8]3[n:9][cH:10][n:11][c:12]([O:13][c:14]4[cH:15][cH:16][c:17]5[nH:18][cH:19][cH:20][c:21]5[c:22]4[F:23])[c:24]3[cH:25]2)[CH2:34][CH2:33]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(32, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[F:6][c:5]1[c:2]([C:3]#[N:4])[c:1](F)[cH:9][cH:8][cH:7]1.[OH:10][CH2:11][CH:12]1[CH2:13][CH2:14][CH:15]([O:16][c:17]2[c:18]([F:19])[cH:20][cH:21][cH:22][c:23]2[F:24])[CH2:25][CH2:26]1>>[c:1]1([O:10][CH2:11][CH:12]2[CH2:13][CH2:14][CH:15]([O:16][c:17]3[c:18]([F:19])[cH:20][cH:21][cH:22][c:23]3[F:24])[CH2:25][CH2:26]2)[c:2]([C:3]#[N:4])[c:5]([F:6])[cH:7][cH:8][cH:9]1,[OH:10][CH2:11][CH:12]1[CH2:13][CH2:14][CH:15]([O:16][c:17]2[c:18]([F:19])[cH:20][cH:21][cH:22][c:23]2[F:24])[CH2:25][CH2:26]1.[F:101][c:1]1[c:2]([C:3]#[N:4])[c:5]([F:6])[cH:7][cH:8][cH:9]1.[H-:301].[Na+]>>[c:1]1([O:10][CH2:11][CH:12]2[CH2:13][CH2:14][CH:15]([O:16][c:17]3[c:18]([F:19])[cH:20][cH:21][cH:22][c:23]3[F:24])[CH2:25][CH2:26]2)[c:2]([C:3]#[N:4])[c:5]([F:6])[cH:7][cH:8][cH:9]1,SNAr_alco(thi)ol(ortho),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][CH:9]([NH2:10])[CH2:11][NH2:12]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:12][CH2:11][C@H:9]([CH3:8])[NH2:10],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][CH:9]([NH2:10])[CH2:11][NH2:12]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:12][CH2:11][C@H:9]([CH3:8])[NH2:10],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
